US07067537B2
3-(2-bromoacetyl)pyridine Hydrobromate (16)
To a solution of 3-acetylpyridine (5.00 g, 41.3 mmol) in acetic acid (100 ml) was added 47% hydrobromic acid (7.10 ml, 41.3 mmol), and a solution of bromine (2.12 ml, 41.3 mmol) in acetic acid (50 ml) was added dropwise under ice-cooling. After the completion of the dropwise addition, the reaction mixture was heated to 80° C. and the mixture was stirred for one hr. After cooling, the precipitated crystals were collected by filtration, washed with ethanol-ethyl acetate and dried under reduced pressure to give white crystals.

reactant | 3-acetylpyridine | 41.3 mmol, 5.00 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | hydrobromic acid | 41.3 mmol, 7.10 ml | Br | BrH
reactant | bromine | 41.3 mmol, 2.12 ml | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 3-(2-bromoacetyl)pyridine | BrCC(=O)C=1C=NC=CC1 | C7H6BrNO
